US06943255B2
A solution of 2-ethoxy-N-{7-[(2-methylpropyl)amino]-5-methyltetraazolo[1,5-α]pyridin-8-yl}acetamide (10.9 g, 35.6 mmol) and pyridine hydrochloride (10 g) in pyridine (100 mL) was heated at reflux under a nitrogen atmosphere for five days. An analysis by high-performance liquid chromatography indicated the presence of 16% starting material, and an additional 10 g of pyridine hydrochloride was added. After a total of seven days, the reaction was complete, and the solvent was removed under reduced pressure. The resulting black oil was dissolved in ethyl acetate (500 mL), and the solution was washed with water (3×200 mL), dried over magnesium sulfate, filtered, and concentrated to 200 mL. Needles began to form in the solution, which was placed in a freezer for two hours. The crystals were then filtered and washed with cold ethyl acetate to yield 6.85 g of 8-(ethoxymethyl)-7-(2-methylpropyl)-5-methyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridine as light brown needles, m.p. 158-160° C.

reactant | 2-ethoxy-N-{7-[(2-methylpropyl)amino]-5-methyltetraazolo[1,5-α]pyridin-8-yl}acetamide | 35.6 mmol, 10.9 g | C(C)OCC(=O)NC=1C=2N(C(=CC1NCC(C)C)C)N=NN2 | C14H22N6O2
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
reactant | pyridine hydrochloride | 10 g | Cl.N1=CC=CC=C1
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 8-(ethoxymethyl)-7-(2-methylpropyl)-5-methyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridine | 6.85 g | C(C)OCC=1N(C2=C(C=3N(C(=C2)C)N=NN3)N1)CC(C)C | C14H20N6O
